US07482354B2
8-iodo-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide [B73-X00-M00(C01)-D03]
1.0 g (2.6 mmol) of ethyl 8-iodo-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate were dissolved in a mixture of 100 mL of methanol and 100 mL of ammonium hydrate 33%. The solution was stirred in a close bottle at 60° C. for 4 hours. The resulting precipitate was collected giving 0.5 g (54% yield) of the title compound.

reactant | ethyl 8-iodo-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 2.6 mmol, 1.0 g | IC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)OCC | C13H13IN4O2
reactant | ammonium hydrate | 100 mL | O.[NH4+]
solvent | methanol | 100 mL | CO | CH4O
product | 8-iodo-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 0.5 g, 54% yield | IC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)N | C11H10IN5O
